US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(2-nitrophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-8-(2-nitrophenyl)-10b-methyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one (60 mg, 0.18 mmol), 0.3 mL of t-butanol, and potassium t-butoxide (60 mg, 0.54 mmol). Methyl iodide (0.034 mL, 0.54 mmol) was added and the mixture was stirred at room temperature for 4 h. The mixture was diluted with ethyl acetate, and purified by silica gel chromatography (ethyl acetate eluent) to give 50 mg (80%) of the title compound as a white solid. mp 130°-131°. FDMS: m/e=350.

reactant | (+)-(4aR)-(10bR)-8-(2-nitrophenyl)-10b-methyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.18 mmol, 60 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1 | C20H20N2O3
reactant | t-butanol | 0.3 mL | C(C)(C)(C)O | C4H10O
reactant | potassium t-butoxide | 0.54 mmol, 60 mg | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 0.54 mmol, 0.034 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(2-nitrophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 50 mg, 80% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=C(C=CC=C3)[N+](=O)[O-])C)=O | C21H22N2O3
